US04358409
9.2 g (0.0768 mol) of thionyl chloride were added to a mixture of 20.2 g (0.0725 mol) of 4-chloro-α-hydroxybenzylphosphonic acid diethyl ester, 65 g of methylene chloride and 5.8 g (0.0725 mol) of pyridine at 20°-40° C. in the course of about 1 hour, while cooling slightly with water. The reaction mixture was then heated under reflux for 3 hours and subsequently stirred for 12 hours, without further action of heat. The mixture was poured onto about 100 g of ice-water and the organic phase was separated off and dried. After distilling off the solvent, the residue was concentrated under 6 mm Hg and at 45° C. 21 g (97.7% of theory) of 4-chloro-α-chloro-benzylphosphonic acid diethyl ester were obtained as a yellow viscous oil with a purity of 98.6% (gas chromatogram) and a refractive index of nD24 : 1.5250.

reactant | thionyl chloride | 0.0768 mol, 9.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-α-hydroxybenzylphosphonic acid diethyl ester | 0.0725 mol, 20.2 g | C(C)OP(OCC)(=O)C(C1=CC=C(C=C1)Cl)O | C11H16ClO4P
reactant | methylene chloride | 65 g | C(Cl)Cl | CH2Cl2
reactant | pyridine | 0.0725 mol, 5.8 g | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-chloro-α-chloro-benzylphosphonic acid diethyl ester | 21 g, 97.7% | C(C)OP(OCC)(=O)C(C1=CC=C(C=C1)Cl)Cl | C11H15Cl2O3P
